US06342765B1
Triethylamine (29 ml; 0.206 mol) was added to a solution of methyl 4-methoxysalicylate (25.0 g; 0.137 mol) in dichloromethane (500 ml) and the solution cooled to 0° C. Trifluoromethanesulphonic anhydride (29 ml; 0.172 mol) was added dropwise and the reaction stirred at ambient temperature for 1 hour. Additional portions of triethylamine and triflic anhydride were added over 16 hours until HPLC showed absence of starting material. The reaction was washed with 2N HCl and the organic phase evaporated to give a brown oil. Purification by flash column chromatography eluting with ethyl acetate/iso-hexane (1:1) gave methyl 4-methoxy-2-trifluoromethylsulfonyloxybenzoate as a pale yellow oil (23.4 g).

reactant | Triethylamine | 0.206 mol, 29 ml | C(C)N(CC)CC | C6H15N
reactant | methyl 4-methoxysalicylate | 0.137 mol, 25.0 g | COC=1C=C(C(C(=O)OC)=CC1)O | C9H10O4
reactant | Trifluoromethanesulphonic anhydride | 0.172 mol, 29 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | triflic anhydride | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | methyl 4-methoxy-2-trifluoromethylsulfonyloxybenzoate | 23.4 g, Yield: 76% | COC1=CC(=C(C(=O)OC)C=C1)OS(=O)(=O)C(F)(F)F | C10H9F3O6S
